US05364749
10 g of 2,4-di(2,4-dihydroxyphenyl)-6-methoxy-1,3,5-triazine are stirred for 3 hours at 130° C. with 100 ml of butyl glycidyl ether and 0.20 g of tetrabutylammonium bromide. The mixture is subsequently allowed to cool to 80° C., 100 ml of ethyl acetate and 2.0 g of Prolith Rapid are added, the mixture is filtered through kieselguhr, and the solvent is removed under reduced pressure. The excess butyl glycidyl ether is then removed by vacuum distillation, giving 2,4-di[2-hydroxy-4-(3-butoxy-2-hydroxypropoxy)phenyl]-6-methoxy-1,3,5-triazine, which, after recrystallisation from ethanol, has a melting point of 108°-109° C.

reactant | 2,4-di(2,4-dihydroxyphenyl)-6-methoxy-1,3,5-triazine | 10 g | OC1=C(C=CC(=C1)O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)O)O)OC | C16H13N3O5
reactant | butyl glycidyl ether | 100 ml | C(C1CO1)OCCCC | C7H14O2
catalyst | tetrabutylammonium bromide | 0.20 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2,4-di[2-hydroxy-4-(3-butoxy-2-hydroxypropoxy)phenyl]-6-methoxy-1,3,5-triazine | OC1=C(C=CC(=C1)OCC(COCCCC)O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OCC(COCCCC)O)O)OC | C30H41N3O9
